US07968570B2
A mixture of 4-chloro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester (1.33 g, 4.0 mmol), 4-trifluoromethoxy-benzylamine (0.610 mL, 4.1 mmol), and K2CO3 (0.691 g, 5.0 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography of the product using 30% ethyl acetate in hexane afforded 5-chloro-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.770 g, 47%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.34 (s, 2H), 4.80 (s, 2H) 7.20 (d, 2H), 7.36 (d, 2H), 7.59 (s, 1H), 7.78 (s, 1H). GC-MS: m/z 409 (M)+, 388 (M−21)+.

reactant | 4-chloro-2-bromomethyl-6-trifluoromethyl-benzoic acid methyl ester | 4.0 mmol, 1.33 g | COC(C1=C(C=C(C=C1C(F)(F)F)Cl)CBr)=O | C10H7BrClF3O2
reactant | 4-trifluoromethoxy-benzylamine | 4.1 mmol, 0.610 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | K2CO3 | 5.0 mmol, 0.691 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-2-(4-trifluoromethoxy-benzyl)-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.770 g, 47% | ClC=1C=C2CN(C(C2=C(C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H10ClF6NO2
